US04721744
Using a mixture of 33.6 g (0.121 mole) of methyl 3-(3-tertbutyl-4-hydroxy-5-isopropylphenyl)propionate, 15.3 g (0.0503 mole) of 3,9-bis(2-hydroxy-1,1-dimethylethyl)-2,4,8,10-tetraoxaspiro[5.5]-undecane and 0.82 g (0.015 mole) of sodium methoxide, reaction; after-treatment and purification were carried out in the same manner as in Preparation example 1 to obtain 29 g of 98%-purity 3,9-bis[2-[3-(3-tert-butyl-4-hydroxy-5-isopropylphenyl)propionyloxy]-1,1-dimethylethyl]-2,4,8,10-tetraoxaspiro[5.5]undecane as a colorless glassy product (Compound I-2). m.p., 47°-57° C.

reactant | methyl 3-(3-tertbutyl-4-hydroxy-5-isopropylphenyl)propionate | 0.121 mole, 33.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)C)CCC(=O)OC | C17H26O3
reactant | 3,9-bis(2-hydroxy-1,1-dimethylethyl)-2,4,8,10-tetraoxaspiro[5.5]-undecane | 0.0503 mole, 15.3 g | OCC(C)(C)C1OCC2(CO1)COC(OC2)C(CO)(C)C | C15H28O6
reactant | sodium methoxide | 0.015 mole, 0.82 g | C[O-].[Na+]
product | 3,9-bis[2-[3-(3-tert-butyl-4-hydroxy-5-isopropylphenyl)propionyloxy]-1,1-dimethylethyl]-2,4,8,10-tetraoxaspiro[5.5]undecane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)C)CCC(=O)OCC(C)(C)C1OCC2(CO1)COC(OC2)C(COC(CCC2=CC(=C(C(=C2)C(C)C)O)C(C)(C)C)=O)(C)C | C47H72O10
